US06362177B1
To A solution of 4-[{N-(9-fluorenylmethyloxycarbonyl)glycyl}aminomethyl]piperidine (1.00 g, 2.33 mmol) in 2.5% AcOH/CH3OH (80 mL) were added 4-ethylbenzaldehyde (1.09 g, 8.16 mmol) and NaBH3CN (6.59 g, 10.5 mmol). The reaction mixture was stirred at 60° C. for 13 h. After the mixture was cooled to room temperature, 1 N aqueous NaOH solution (50 mL) and dichloromethane (50 mL) were added. The organic layer was separated and the aqueous layer was extracted with dichloromethane (50 mL×3). The combined organic layers were washed with brine, dried over anhydrous sodium sulfate, filtered, and concentrated. Column chromatography (SiO2, CH3OH/AcOEt 2:8) afforded 1-(4-ethylbenzyl)-4-[{N-(9-fluorenylmethyloxycarbonyl)glycyl}aminomethyl]piperidine (740 mg, 62%).

reactant | 4-[{N-(9-fluorenylmethyloxycarbonyl)glycyl}aminomethyl]piperidine | 2.33 mmol, 1.00 g | C1=CC=CC=2C3=CC=CC=C3C(C12)COC(=O)NCC(=O)NCC1CCNCC1 | C23H27N3O3
reactant | 4-ethylbenzaldehyde | 8.16 mmol, 1.09 g | C(C)C1=CC=C(C=O)C=C1 | C9H10O
reactant | NaBH3CN | 10.5 mmol, 6.59 g | [BH3-]C#N.[Na+]
reactant | NaOH | 1 N, 50 mL | [OH-].[Na+]
solvent | AcOH CH3OH | 80 mL | CC(=O)O.CO
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
product | 1-(4-ethylbenzyl)-4-[{N-(9-fluorenylmethyloxycarbonyl)glycyl}aminomethyl]piperidine | 740 mg, 62% | C(C)C1=CC=C(CN2CCC(CC2)CNC(CNC(=O)OCC2C3=CC=CC=C3C=3C=CC=CC23)=O)C=C1 | C32H37N3O3
